US07884234B2
(1) Preparation of 4-bromo-N-(3,5-dimethylbenzyl)aniline
A mixture of 3,5-dimethylbenzyl bromide (1.59 g, 7.986 mmol), 4-bromoaniline (1.374 g, 7.986 mmol), potassium carbonate (5.519 g, 39.93 mmol) and N,N-dimethylformamide (6.5 ml) was stirred at 80° for 2 hours under argon atmosphere. The reaction mixture was cooled to room temperature, diluted with water, and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous sodium sulfate. The residue obtained by evaporation of the solvent under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=15:1) to give the title compound (2.106 g, 57.2%) as a pale yellow oil.

reactant | 3,5-dimethylbenzyl bromide | 7.986 mmol, 1.59 g | CC=1C=C(CBr)C=C(C1)C | C9H11Br
reactant | 4-bromoaniline | 7.986 mmol, 1.374 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | potassium carbonate | 39.93 mmol, 5.519 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 6.5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-bromo-N-(3,5-dimethylbenzyl)aniline | 2.106 g, 57.2% | BrC1=CC=C(NCC2=CC(=CC(=C2)C)C)C=C1 | C15H16BrN
